US08729105B2
Preparation of 5-(4-chloro-3-fluorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-6-(2,2,2-trifluoroethoxy)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chloro-3-fluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid (example BR) and 3-methoxy-5-isoxazolemethanamine (CAN 2763-94-2) as starting materials; LC-MS (UV peak area/ESI) 100%, 458.0537 (M−H)−.

reactant | 5-(4-chloro-3-fluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F)F | C14H8ClF4NO3
reactant | 3-methoxy-5-isoxazolemethanamine | COC1=NOC(=C1)CN | C5H8N2O2
product | 5-(4-chloro-3-fluorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-6-(2,2,2-trifluoroethoxy)nicotinamide | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)NCC2=CC(=NO2)OC)C1)OCC(F)(F)F)F | C19H14ClF4N3O4
